US05053509
(RS)-8-[3-(4-Cyanophenyl)-1-piperazinyl]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid was prepared under the conditions of Example 11, but starting with 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid (1.84 g), (RS)-2-(4-cyanophenyl)piperazine (5.61 g) and triethylamine (1.7 cc). (RS)-8-[3-(4-Cyanophenyl)-1-piperazinyl]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid (1.15 g) is obtained in the form of a yellow solid, decomposing at 332° C.

reactant | 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 1.84 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C14H8ClFN2O3
reactant | (RS)-2-(4-cyanophenyl)piperazine | 5.61 g | C(#N)C1=CC=C(C=C1)C1NCCNC1 | C11H13N3
solvent | triethylamine | 1.7 cc | C(C)N(CC)CC | C6H15N
product | (RS)-8-[3-(4-Cyanophenyl)-1-piperazinyl]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid | 1.15 g | C(#N)C1=CC=C(C=C1)C1CN(CCN1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C25H20FN5O3
